US08580777B2
G. (S)-6-Amino-2-[3-((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-12-yl)ureido]hexanoic acid
0.71 g (1.10 mmol) of tert-butyl (S)-6-tert-butoxycarbonylamino-2-[3-((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-12-yl)ureido]hexanoate was dissolved in 11 ml of dichloromethane, and the same volume of trifluoroacetic acid was added. Stirring at RT for 4 h was followed by concentration and fractionation of the residue by preparative HPLC. The required fractions were combined and, after evaporation of acetonitrile, mixed with dilute hydrochloric acid, concentrated further and finally freeze dried. 0.42 g of the title compound was obtained as hydrochloride.

reactant | tert-butyl (S)-6-tert-butoxycarbonylamino-2-[3-((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-12-yl)ureido]hexanoate | 1.10 mmol, 0.71 g | C(C)(C)(C)OC(=O)NCCCC[C@@H](C(=O)OC(C)(C)C)NC(=O)N[C@H]1C(N[C@H](COCCCCOC=2C=CC(C1)=CC2)C(C)C)=O | C34H56N4O8
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 11 ml | ClCCl | CH2Cl2
product | (S)-6-Amino-2-[3-((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-12-yl)ureido]hexanoic acid | 0.42 g | NCCCC[C@@H](C(=O)O)NC(=O)N[C@H]1C(N[C@H](COCCCCOC=2C=CC(C1)=CC2)C(C)C)=O | C25H40N4O6
